US20010021712A1
In a round-bottomed flask fitted with a mechanical stirrer, a Nitrogen inlet and a condenser, 30 g (0.065 mole) of 2-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]ethoxyacetamide dihydrochloride are added to a mixture of 325 ml of ethanol, 130 ml of a 1 N aqueous sodium hydroxyde solution and 62 ml of a 6.3 N aqueous sodium hydroxide solution. The mixture is heated under reflux and under a Nitrogen atmosphere for 1.5 hours. The reaction mixture is then cooled down to room temperature and its pH is adjusted to 5 with 78 ml of a 5 N aqueous hydrochloric acid solution. Water is added, and ethanol is evaporated off under vacuum using a rotary evaporator. The resulting aqueous phase is extracted with dichloromethane. The organic phase is dried over anhydrous sodium sulphate and evaporated to dryness to give 25 g of crude efletirizine as an amorphous solid, 5 g of which are recrystallized in acetonitrile.

reactant | 2-[4-[bis(4-fluorophenyl)methyl]-1-piperazinyl]ethoxyacetamide dihydrochloride | 0.065 mole, 30 g | Cl.Cl.FC1=CC=C(C=C1)C(N1CCN(CC1)CCOCC(=O)N)C1=CC=C(C=C1)F
reactant | sodium | 1 N | [Na] | Na
reactant | sodium hydroxide | 6.3 N | [OH-].[Na+]
reactant | hydrochloric acid | 5 N | Cl | ClH
solvent | Water | O | H2O
solvent | ethanol | 325 ml | C(C)O | C2H6O
product | efletirizine | 25 g | C1=CC(=CC=C1C(C=2C=CC(=CC2)F)N3CCN(CC3)CCOCC(=O)O)F | C21H24F2N2O3
